US05646173
A solution of 26.4 g of 7-methoxy-1-indanone, 33.6 ml of 3-buten-2-ol and 265 mg of p-toluenesulfonic acid in 33.6 ml of 2,2-dimethoxypropane and 265 ml of anhydrous toluene was boiled under reflux for 17 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 9.9 g (28%) of (RS)-2-(2-buten-1-yl)-7-methoxy-1-indanone were obtained as a yellow oil.

reactant | 7-methoxy-1-indanone | 26.4 g | COC=1C=CC=C2CCC(C12)=O | C10H10O2
reactant | 3-buten-2-ol | 33.6 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 265 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxypropane | 33.6 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 265 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-7-methoxy-1-indanone | 9.9 g, 28% | C(C=CC)C1C(C2=C(C=CC=C2C1)OC)=O | C14H16O2
